US09102774B2
Batch Preparation of Octyl Acrylate Using 96% H2SO4
To 1.00 g (0.00891 mole, 1 eq) of 1-octene heated to 50° C. was added a solution of 0.706 g (0.00980 mole, 1.1 eq) of acrylic acid and 2.00 g of a 96 wt-% solution of sulfuric acid (18 M, 0.0196 mole, 2.2 eq). After 15 minutes at 70° C. all the olefin was consumed but only 30% of the product was the desired acrylate.

reactant | 1-octene | 0.00891 mole, 1.00 g, 1 eq | C=CCCCCCC | C8H16
reactant | acrylic acid | 0.00980 mole, 0.706 g, 1.1 eq | C(C=C)(=O)O | C3H4O2
reactant | sulfuric acid | 0.0196 mole, 18 M, 2.2 eq | S(O)(O)(=O)=O | H2O4S
product | Octyl Acrylate | C(C=C)(=O)OCCCCCCCC | C11H20O2
